US04943582
2,2-Dimethyl-6-cyclopentyl-2H-1-benzopyran (D12)
4-Cyclopentylphenol (10.0 g), and sodium hydroxide pellets (3.7 g) were stirred in water (60 ml) and dichloromethane (60 ml). Benzyltrimethylammonium hydroxide (75 ml, 40% solution in methanol) was added to the solution, followed by 3-chloro-3-methylbutyne (12.63 g) and the reaction mixture stirred under reflux condenser, with sonication. The layers were separated, and the aqueous phase extracted with chloroform. The combined organic layers were evaporated, and the residue taken up in ether. The ether solution was washed with 10% sodium hydroxide solution, and brine and dried over anhydrous magnesium sulphate. Filtration and evaporation gave a pale brown oil (10.89 g) which was refluxed in o-dichlorobenzene (22 ml) under nitrogen for 2 h. Evaporation and chromatography of the resulting brown oil (9.3 g) gave the title benzopyran (4.18 g).

reactant | 4-Cyclopentylphenol | 10.0 g | C1(CCCC1)C1=CC=C(C=C1)O | C11H14O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Benzyltrimethylammonium hydroxide | 75 ml | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 3-chloro-3-methylbutyne | 12.63 g | ClC(C#C)(C)C | C5H7Cl
solvent | water | 60 ml | O | H2O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 2,2-Dimethyl-6-cyclopentyl-2H-1-benzopyran | 10.89 g | CC1(OC2=C(C=C1)C=C(C=C2)C2CCCC2)C | C16H20O
